US04342825
1(a) 4-(1,1,2,3,3,3-hexafluoropropyloxy)-benzoic acid methyl ester
456 g (3 moles) of 4-hydroxybenzoic acid methyl ester, 30 g of 85% potassium hydroxide, and 1 l of acetone were placed in an autoclave. An amount of 562.5 g (3.75 moles) of hexafluoropropylene was introduced under pressure.

reactant | 4-hydroxybenzoic acid methyl ester | 3 moles, 456 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | potassium hydroxide | 30 g | [OH-].[K+]
reactant | hexafluoropropylene | 3.75 moles, 562.5 g | FC(C(=C(F)F)F)(F)F | C3F6
solvent | acetone | 1 l | CC(=O)C | C3H6O
product | 4-(1,1,2,3,3,3-hexafluoropropyloxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC(C(C(F)(F)F)F)(F)F)=O | C11H8F6O3
